US08431573B2
4-(4-Hydroxypiperidin-1-yl)-6-oxo-2-(3-thienylmethyl)-1,6-dihydropyrimidine-5-carbonitrile
In analogy to the preparation of Example 1, 100 mg (0.38 mmol) of 4-(methylsulphanyl)-6-oxo-2-(3-thienylmethyl)-1,6-dihydropyrimidine-5-carbonitrile are reacted with 384 mg (3.80 mmol) of piperidin-4-ol to give 47 mg (39% of theory) of the title compound.

reactant | 4-(methylsulphanyl)-6-oxo-2-(3-thienylmethyl)-1,6-dihydropyrimidine-5-carbonitrile | 0.38 mmol, 100 mg | CSC=1N=C(NC(C1C#N)=O)CC1=CSC=C1 | C11H9N3OS2
reactant | piperidin-4-ol | 3.80 mmol, 384 mg | N1CCC(CC1)O | C5H11NO
product | 4-(4-Hydroxypiperidin-1-yl)-6-oxo-2-(3-thienylmethyl)-1,6-dihydropyrimidine-5-carbonitrile | OC1CCN(CC1)C=1N=C(NC(C1C#N)=O)CC1=CSC=C1 | C15H16N4O2S
